US07501426B2
1-[(furan-3-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine
A mixture of 300 mg of 3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine, 95 μl furan-3-yl-methanol, 302 mg triphenylphosphine and 226 μl diisopropyl azodicarboxylate in 4 ml tetrahydrofuran is stirred overnight at ambient temperature. For working up the reaction mixture is combined with saturated potassium carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over magnesium sulfate and evaporated down. The flask residue is chromatographed over a silica gel column with cyclohexane/ethyl acetate (1:1 to 3:7).

reactant | 3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine | 300 mg | CN1C(NC(C=2N(C(=NC12)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)CC#CC)=O)=O | C20H28N6O4
reactant | furan-3-yl-methanol | 95 μl | O1C=C(C=C1)CO | C5H6O2
reactant | triphenylphosphine | 302 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 226 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-[(furan-3-yl)methyl]-3-methyl-7-(2-butyn-1-yl)-8-[(R)-3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine | O1C=C(C=C1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)C | C25H32N6O5
